US06579879B2
Chloroacetic acid (99.3 mmol, 9.4 g) was added to a suspension of 5-fluoro-2-hydroxy acetophenone (33.1 mmol, 5.1 g) in water (60 mL) containing sodium hydroxide (165.4 mmol, 6.6 g) and the reaction mixture was refluxed for 3.5 hours. The reaction mixture was cooled to room temperature, poured into a separatory funnel and the oily liquid at the bottom of the funnel was discarded. The aqueous top layer was collected, cooled to 0° C. and acidified with conc. HCl. The white precipitate was collected, and air died. The dry solid was crystallized from toluene to obtain (2-acetyl-4-fluoro-phenoxy)-acetic acid, (57%, 4.39).

reactant | Chloroacetic acid | 99.3 mmol, 9.4 g | ClCC(=O)O | C2H3ClO2
reactant | 5-fluoro-2-hydroxy acetophenone | 33.1 mmol, 5.1 g | CC(=O)C1=C(C=CC(=C1)F)O | C8H7FO2
reactant | sodium hydroxide | 165.4 mmol, 6.6 g | [OH-].[Na+]
solvent | water | 60 mL | O | H2O
product | (2-acetyl-4-fluoro-phenoxy)-acetic acid | C(C)(=O)C1=C(OCC(=O)O)C=CC(=C1)F | C10H9FO4
